US08193199B2
To a stirred solution of (S)-2-(1-(8-chloro-2-vinylquinolin-3-yl)ethyl)isoindoline-1,3-dione (200 mg, 0.55 mmol) in THF (5 mL) and water (1.0 mL) was added potassium osmate(VI) dihydrate (10.2 mg, 27.6 μmol). The reaction was stirred for 5 minutes and then NMO (64.6 mg, 0.55 mmol) was added. The reaction was stirred for 3 hours and then it was diluted with ethyl acetate (80 mL) and 1.0 M aqueous citric acid (40 mL). The separated aqueous layer was extracted with ethyl acetate (140 mL) and the combined organic layers were washed with brine (40 mL), dried (MgSO4), filtered and evaporated in vacuo to give 2-((S)-1-(8-chloro-2-(1,2-dihydroxyethyl)quinolin-3-yl)ethyl)isoindoline-1,3-dione. The product was used without further purification in the next step. 1H NMR (400 MHz, CDCl3) δ ppm 8.77 (1H, d, J=11.7 Hz), 7.61-7.88 (6H, m), 7.49 (1H, q, J=8.1 Hz), 5.95-6.17 (1H, m), 5.22-5.32 (1H, m), 4.02-4.26 (2H, m), 1.94-1.97 (3H, m). Mass Spectrum (ESI) m/e=396.9 (M+1).

reactant | (S)-2-(1-(8-chloro-2-vinylquinolin-3-yl)ethyl)isoindoline-1,3-dione | 0.55 mmol, 200 mg | ClC=1C=CC=C2C=C(C(=NC12)C=C)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C21H15ClN2O2
reactant | NMO | 0.55 mmol, 64.6 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 1.0 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | citric acid | 1.0 M, 40 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | potassium osmate(VI) dihydrate | 27.6 μmol, 10.2 mg | O.O.[O-][Os](=O)(=O)[O-].[K+].[K+]
product | 2-((S)-1-(8-chloro-2-(1,2-dihydroxyethyl)quinolin-3-yl)ethyl)isoindoline-1,3-dione | ClC=1C=CC=C2C=C(C(=NC12)C(CO)O)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C21H17ClN2O4
